US07547710B2
Palladium acetate (0.014 g, 0.063 mmol) and racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.12 g, 0.19 mmol) were added to 1,4-dioxane (30 ml) under a nitrogen atmosphere, and the mixture was stirred at 40° C. for 30 min. The reaction mixture was cooled to room temperature and 6-bromo-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile (0.50 g, 1.3 mmol), 2-piperazinone (0.50 ml, 5.0 mmol) and cesium carbonate (0.57 g, 1.8 mmol) were added. The mixture was stirred under a nitrogen atmosphere at 80° C. for 2 days. The reaction mixture was cooled and partitioned between ethyl acetate and water, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give 2-isobutyl-4-(4-methylphenyl)-6-(3-oxopiperazin-1-yl)quinoline-3-carbonitrile (0.35 g, yield 71%) as a yellow powder.

reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.19 mmol, 0.12 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 6-bromo-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile | 1.3 mmol, 0.50 g | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)C#N)C1=CC=C(C=C1)C | C21H19BrN2
reactant | 2-piperazinone | 5.0 mmol, 0.50 ml | N1C(CNCC1)=O | C4H8N2O
reactant | cesium carbonate | 1.8 mmol, 0.57 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Palladium acetate | 0.063 mmol, 0.014 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-isobutyl-4-(4-methylphenyl)-6-(3-oxopiperazin-1-yl)quinoline-3-carbonitrile | 0.35 g, yield 71% | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1C#N)C1=CC=C(C=C1)C)N1CC(NCC1)=O | C25H26N4O
